US05674906
Synthesis of (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-L-lysineamide Dihydrochloride
(E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-Boc-L-lysineamide (1,1000 mg, 1.64 mmols) were dissolved in 10 ml of dichloromethane, and 5 ml of a solution of 4-M hydrochloric acid and dioxane were added thereto. The mixture was reacted at 60° C. for 3 hours. One-hundred milliliters of diethyl ether were added thereto, and the mixture was filtered. The resulting powder was purified through medium-pressure liquid chromatography (ODS, mixture of water and acetonitrile at a ratio by volume of from 95:5 to 85:15), and was dissolved in a small amount of methanol (10 ml). A mixture of acetonitrile and ethyl acetate was added thereto, and the precipitate obtained was collected by filtration to produce 300 mg (0.554 mmols) of the final product in a yield of 34%.

reactant | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile Boc-L-lysineamide | 1.64 mmols, 1,1000 mg | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OC(C)(C)C)N[C@@H](CCCCN)C(=O)N
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | diethyl ether | One-hundred milliliters | C(C)OCC | C4H10O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile L-lysineamide Dihydrochloride | 0.554 mmols, 300 mg, yield of 34% | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.Cl.Cl.N[C@@H](CCCCN)C(=O)N | InChI=1S/C19H20N2O4.C6H15N3O.2ClH/c1-22-16-6-5-12(8-15(16)21)7-14(11-20)13-9-17(23-2)19(25-4)18(10-13)24-3;7-4-2-1-3-5(8)6(9)10;;/h5-10H,21H2,1-4H3;5H,1-4,7-8H2,(H2,9,10);2*1H/b14-7-;;;/t;5-;;/m.0../s1
